US09422331B2
Acetyl chloride (0.5 ml, 7.03 mmol) was added dropwise to a solution of {(S)-1-[(2S,3S)-1-(4-acetyl-benzoyl)-5-(5-bromo-2-methoxy-naphthalen-1-ylmethyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester (40 mg, 0.52 mmol) in methanol at 0° C. and the reaction was allowed to warm to ambient temperature and stir for 2 h. The reaction was concentrated in vacuo and the residue was triturated with diethyl ether, filtered and dried to give (S)-N-[(2S,3S)-1-(4-acetyl-benzoyl)-5-(5-bromo-2-methoxy-naphthalen-1-ylmethyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-methylamino-propionamide hydrochloride (30 mg, 82%). LR-MS [M+H+]672, 673

reactant | Acetyl chloride | 7.03 mmol, 0.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | {(S)-1-[(2S,3S)-1-(4-acetyl-benzoyl)-5-(5-bromo-2-methoxy-naphthalen-1-ylmethyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 0.52 mmol, 40 mg | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@@H]1C(N(C2=C(N([C@H]1C)C(C1=CC=C(C=C1)C(C)=O)=O)C=CC=C2)CC2=C(C=CC1=C(C=CC=C21)Br)OC)=O)=O)=O | C40H43BrN4O7
solvent | methanol | CO | CH4O
product | (S)-N-[(2S,3S)-1-(4-acetyl-benzoyl)-5-(5-bromo-2-methoxy-naphthalen-1-ylmethyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-methylamino-propionamide hydrochloride | 30 mg, 82% | Cl.C(C)(=O)C1=CC=C(C(=O)N2C3=C(N(C([C@H]([C@@H]2C)NC([C@H](C)NC)=O)=O)CC2=C(C=CC4=C(C=CC=C24)Br)OC)C=CC=C3)C=C1 | InChI=1S/C35H35BrN4O5.ClH/c1-20(37-4)33(42)38-32-21(2)40(34(43)24-15-13-23(14-16-24)22(3)41)30-12-7-6-11-29(30)39(35(32)44)19-27-25-9-8-10-28(36)26(25)17-18-31(27)45-5;/h6-18,20-21,32,37H,19H2,1-5H3,(H,38,42);1H/t20-,21-,32-;/m0./s1
